US04130562
Starting from thenylmercaptan and N-propylthiophthalimide there is obtained propyl-thenyl-disulphide. IR (liq.): bands inter alia at 2990, 1455, 1220, 1030, 850, 700 cm-1.

reactant | thenylmercaptan | C1(=CC=CS1)CS | C5H6S2
reactant | N-propylthiophthalimide | C(CC)N1C(C=2C(C1=O)=CC=CC2)=S | C11H11NOS
product | propyl-thenyl-disulphide | C(CC)SSCC1=CC=CS1 | C8H12S3
